US07101892B2
3-Methyl-4-(3-methylbenzenesulphonyl)pentan-1-ol
1-Methyl-3-(2-methylbut-3-ene-1-sulphonyl)benzene (444 mg, 1.96 mmol) was dissolved in tetrahydrofuran (5 ml) and cooled to −78° C. n-Butyllithium (1.6M in hexanes, 1.96 mmol) was added. The reaction was treated with methyl iodide (130 μL, 2.16 mmol) and allowed to warm to room temperature. The mixture was quenched with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo to give a 1:1 mixture of dimethyl diastereoisomers containing approximately 28% monomethyl starting material. This crude mixture (265 mg, 1.12 mmol) was dissolved in tetrahydrofuran (3 ml) at 0° C. and treated with borane-tetrahydrofuran complex (1.0M in tetrahydrofuran, 4.5 ml, 4.5 mmol) then allowed to warm to room temperature and stirred for 6 hours. The reaction was treated cautiously with pre-mixed hydrogen peroxide 35% w/w (5 ml) and water (5 ml) and stirred for 18 hours. The reaction mixture was extracted with ethyl acetate and the combined organic layers were concentrated in vacuo to give a clear oil which was purified by preparative thin layer chromatography, eluting with 25% ethyl acetate/i-hexane to give a 1:1 mixture of diastereoisomers that was used in the next step.

reactant | 1-Methyl-3-(2-methylbut-3-ene-1-sulphonyl)benzene | 1.96 mmol, 444 mg | CC1=CC(=CC=C1)S(=O)(=O)CC(C=C)C | C12H16O2S
reactant | n-Butyllithium | 1.96 mmol, 1.6M | C(CCC)[Li]
reactant | methyl iodide | 2.16 mmol, 130 μL | CI | CH3I
reactant | borane tetrahydrofuran | 4.5 mmol, 1.0M, 4.5 ml | B.O1CCCC1
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 3-Methyl-4-(3-methylbenzenesulphonyl)pentan-1-ol | CC(CCO)C(C)S(=O)(=O)C1=CC(=CC=C1)C | C13H20O3S
